### ISSUE TITLE
Wiedijk #10: Euler's Generalization of Fermat's Little Theorem

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#91]
## Wiedijk's 100 Theorems: #10 - Euler's Generalization of Fermat's Little Theorem

**Category**: Number Theory  
**Difficulty**: Easy  
**Mathlib Status**: ✅ Available  
**Epic**: #76

---

## Statement

For any integer $a$ and positive integer $n$ that are coprime (i.e., $\gcd(a, n) = 1$):

$$a^{\phi(n)} \equiv 1 \pmod{n}$$

where $\phi(n)$ is Euler's totient function, counting the number of integers from 1 to $n$ that are coprime to $n$.

### Special Cases

- When $n = p$ is prime: $\phi(p) = p - 1$, giving Fermat's Little Theorem: $a^{p-1} \equiv 1 \pmod{p}$
- When $n = p^k$: $\phi(p^k) = p^{k-1}(p-1)$

---

## Mathlib Resources

The theorem is available in Mathlib as `ZMod.pow_totient`:

```lean
theorem ZMod.pow_totient (n : ℕ) [NeZero n] (a : (ZMod n)ˣ) : a ^ Nat.totient n = 1
```

### Key Imports
```lean
import Mathlib.Data.ZMod.Basic
import Mathlib.RingTheory.Int.Basic
import Mathlib.Data.Nat.Totient
```

### Related Lemmas
- `Nat.totient` - Definition of Euler's totient function
- `ZMod.unitOfCoprime` - Construct a unit from coprimality
- `Nat.totient_prime` - $\phi(p) = p - 1$ for prime $p$
- `Nat.totient_prime_pow` - $\phi(p^k) = p^{k-1}(p-1)$

---

### File Structure
Create `proofs/Proofs/EulerTotient.lean`

### Required Components

1. **Statement of the theorem** with clear documentation
2. **Proof wrapper** around Mathlib's `ZMod.pow_totient`
3. **Alternative integer formulation**: $a^{\phi(n)} \mod n = 1$ when $\gcd(a, n) = 1$
4. **Corollary: Fermat's Little Theorem** as a special case

### Suggested Structure

```lean
/-- Euler's generalization of Fermat's Little Theorem (Wiedijk #10).
    For coprime a and n, a^φ(n) ≡ 1 (mod n). -/
theorem euler_totient (n : ℕ) [NeZero n] (a : (ZMod n)ˣ) : 
    a ^ Nat.totient n = 1 := 
  ZMod.pow_totient n a

/-- Fermat's Little Theorem as corollary of Euler's theorem -/
theorem fermat_little_theorem (p : ℕ) [hp : Fact (Nat.Prime p)] (a : (ZMod p)ˣ) : 
    a ^ (p - 1) = 1 := by
  convert euler_totient p a
  exact Nat.totient_prime hp.out
```

---

## Acceptance Criteria

- [ ] File `proofs/Proofs/EulerTotient.lean` created
- [ ] Main theorem `euler_totient` proven (no `sorry`)
- [ ] Fermat's Little Theorem as corollary
- [ ] Integer formulation variant included
- [ ] Comprehensive docstrings explaining the theorem
- [ ] File registered in `proofs/Proofs.lean`
- [ ] Build passes: `cd proofs && lake build`

---

## Historical Context

Euler published this generalization in 1763. It extends Fermat's Little Theorem (1640) from prime moduli to arbitrary positive integers. The theorem is fundamental to:
- RSA cryptography
- Primality testing
- Modular arithmetic applications

---

## References

- [Wiedijk's 100 Theorems](https://www.cs.ru.nl/~freek/100/)
- [Mathlib ZMod Documentation](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/ZMod/Basic.html)
- [Euler's Totient Theorem - Wikipedia](https://en.wikipedia.org/wiki/Euler%27s_theorem)
